US06538152B1
To a solution of 2-hydroxy-5-(2-methoxymethoxyethyl)benzonitrile (496 mg) in N,N-dimethylformamide (5 ml) were added potassium carbonate (435 mg) and ethyl bromoacetate (292 μl), and the mixture was stirred for 2 hours at room temperature. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, and removal of the solvent under reduced pressure gave ethyl 2-[2-cyano-4-(2-methoxymethoxyethyl)phenoxy]acetate (619 mg). To a solution of the obtained ethyl 2-[2-cyano-4-(2-methoxymethoxyethyl)phenoxy]acetate (522 mg) in ethanol (5 ml) was added concentrated hydrochloric acid (20 μl), and the mixture was stirred for 2 hours at 70° C. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, and removal of the solvent under reduced pressure gave ethyl 2-[2-cyano-4-(2-hydroxyethyl)phenoxy]acetate (449 mg).

reactant | 2-hydroxy-5-(2-methoxymethoxyethyl)benzonitrile | 496 mg | OC1=C(C#N)C=C(C=C1)CCOCOC | C11H13NO3
reactant | potassium carbonate | 435 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 292 μl | BrCC(=O)OCC | C4H7BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | ethyl 2-[2-cyano-4-(2-methoxymethoxyethyl)phenoxy]acetate | 619 mg | C(#N)C1=C(OCC(=O)OCC)C=CC(=C1)CCOCOC | C15H19NO5
